Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Spastic Gait
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___ 

 
History of Present Illness:
Mr. ___ is a ___ right handed man with a history of
genital herpes and hypertension who presents at the behest of 
his
neurologist for evaluation of myelopathy.

History is gathered from the patient.

Essentially, the patient reports that symptoms started roughly ___
years ago, but prior documentations states it started a little
earlier.  In ___, he developed right foot drop in the setting
of sitting ___ style for an extended period of time.  He was
felt to have a peroneal palsy and over the next few days to 
weeks
this improved essentially back to baseline.

Over the subsequent years however, he has noticed a gradually
progressive weakness and decreased exercise tolerance.  He
initially noticed it again in his right ankle dorsiflexors, 
which
he felt becoming progressive weaker.  This was then followed
insidiously by a feeling of weakness in his b/l groin/hip
adductors and core.  He found himself having progressive 
decrease
in his exercise tolerance and ability to walk long distances. 
When he gets home from work, he is entirely exhausted.

With this, there appears to have been an insidious change in his
gait and his hamstring, often feel very "tight".

Along the way, (though exact timline is unclear) he also noticed
double visionon with left gaze that corrects with eye closure.

For these symptoms he has seen multiple physicians.  Most
recently, he was seen in clinic by Dr. ___.  There was
concern for myelopathy and he subsequently underwent MRI
Brain/Cspine with concern for demyelinating disease. He was
referred to the Neurology was subsequently consulted.

Also of note, Mr. ___ reports an intermittent sensation of
dizziness/vertigo.  This tends to occur when he bend his head up
or down.  It is not positional otherwise.  It tends to occur
daily.  He has had no falls with this, but has come close 
several
times.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus
or hearing difficulty. He denies any subjective cognitive
changes.Denies difficulties producing or comprehending speech. 
Denies focal weakness, numbness, parasthesiae. No bowel or
bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
- Hypertension
- Genital Herpes 
- Chronic Back pain.
- Lumbar degenerative disc disease s/p injections  
- Myofascial pain syndrome.  
 
Social History:
___
Family History:
- No known family history of neurologic diseases, stroke,
seizures, demyelinating diseases, etc.  Strong paternal family
history of CAD.
 
Physical Exam:
Admission: 
Physical Exam:
Vitals: 98.0 74 152/111 18 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple. No nuchal rigidity.  L'hermittes previously
positive, but not tested on today's exam.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2
Abdomen: soft, NT/ND.
Extremities: WWP.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate above 
history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk.  No RAPD.  No red
desaturation. EOM with significant nystagmus on abducting eye
bilaterally..  Appears to have a rotatory component.  With
cover/uncover, right eye deviates out and then corrects with
uncover. Normal saccades. VFF to confrontation. Fundoscopic exam
revealed no papilledema.
V: Facial sensation intact to light touch, pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk.  Spastic tone in the b/l ___. No pronator
drift bilaterally. No adventitious movements, such as tremor,
noted. No asterixis noted.  Right arm orbits left.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+  5    5-  4     5     4   4+
R  5    ___   ___  4+  5    5-  5     5     5-  5

-Sensory: No deficits to light touch, pinprick,proprioception
throughout. No extinction to DSS.   Cortical sensation preserved
in hands.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
- No clonus at either ankle
Plantar response was upgoing bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.  RAM intact bilaterally. 

No cerebellar rebound.

-Gait: Good initiation. Narrow-based, with spastic gait, most
notable in right leg with appears to swing out slightly with
gait.  Unnble to walk in tandem. Romberg present.
================================================================
Discharge Exam: 
MS: AOx3
CN: intact, except for nystagmus in right eye with right gaze 
and in left eye with left gaze. 
Sensorimotor: MAE symmetrically 
 
Pertinent Results:
___ 05:00PM BLOOD WBC-9.7 RBC-5.03 Hgb-15.9 Hct-43.8 MCV-87 
MCH-31.6 MCHC-36.3 RDW-11.8 RDWSD-37.4 Plt ___
___ 06:20AM BLOOD WBC-6.2 RBC-5.09 Hgb-16.1 Hct-45.2 MCV-89 
MCH-31.6 MCHC-35.6 RDW-12.0 RDWSD-39.1 Plt ___
___ 05:00PM BLOOD Neuts-76.1* Lymphs-17.9* Monos-4.8* 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-7.38* AbsLymp-1.74 
AbsMono-0.47 AbsEos-0.06 AbsBaso-0.03
___ 05:00PM BLOOD Plt ___
___ 06:20AM BLOOD ___ PTT-38.0* ___
___ 05:00PM BLOOD Glucose-98 UreaN-9 Creat-0.7 Na-139 K-3.6 
Cl-100 HCO3-27 AnGap-16
___ 06:20AM BLOOD Glucose-98 UreaN-9 Creat-0.8 Na-137 K-3.8 
Cl-101 HCO3-27 AnGap-13
___ 05:00PM BLOOD ALT-27 AST-18 AlkPhos-60 TotBili-0.7
___ 05:00PM BLOOD Albumin-4.8 Calcium-9.7 Phos-3.8 Mg-2.1
___ 06:20AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.2
___ 05:00PM BLOOD VitB12-638 Folate-12.5
___ 07:00PM BLOOD HIV Ab-Negative
___ 05:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:44PM BLOOD NEUROMYELITIS OPTICA 
(NMO)/AQUAPORIN-4-IGG CELL-BINDING ASSAY, SERUM-PND
___ 06:20AM BLOOD ___ VIRUS ANTIBODY WITH REFLEX TO 
INHIBITION ASSAY-PND
___ 07:00PM URINE Color-Straw Appear-Clear Sp ___
___ 07:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 07:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 01:16PM CEREBROSPINAL FLUID (CSF) WBC-3 RBC-0 Polys-0 
___ ___ 01:16PM CEREBROSPINAL FLUID (CSF) TotProt-50* 
Glucose-66
___ 01:16PM CEREBROSPINAL FLUID (CSF) ___ VIRUS (JCV) DNA 
QUANTITATIVE PCR-PND
___ 01:16PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-PND
___ 01:16PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-PND
___ 01:16PM CEREBROSPINAL FLUID (CSF) CYTOMEGALOVIRUS DNA, 
QUALITATIVE, PCR-PND
___ 01:16PM CEREBROSPINAL FLUID (CSF) MULTIPLE SCLEROSIS 
(MS) PROFILE-PND
___ 01:16PM CEREBROSPINAL FLUID (CSF) ___ VIRUS, 
QUAL TO QUANT, PCR-PND
___ 6:49 pm SEROLOGY/BLOOD      TAKEN 65645H. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

 
 
___ 1:16 pm CSF;SPINAL FLUID      Source: LP TUBE #3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   Enterovirus Culture (Preliminary): 

IMAGING: 
___
MRI Head w wo contrast 
1. Foci of signal abnormalities in the ventricular white matter 
including 
involvement of the corpus callosum.  Without enhancement.  The 
distribution and appearance is suggestive of demyelinating 
disease.  No enhancing lesions are seen. 
2. Chronic right frontal sinusitis. 

MRI C T spine w wo contrast 
1. Patchy hyperintensities on the T2 weighted images in the 
cervical and 
thoracic spinal cord without abnormal enhancement.  These 
finding strongly 
suggest demyelinating disease. 

 
Brief Hospital Course:
___ yo male who was admitted to Neurology Service for expedited 
workup for MS. ___ LP was noninflammatory with 3 WBC, 0 RBC, 50 
protein and 66 glucose.  His MRI was notable for no active 
lesions, so there was no indication for IV steroids. Dr. ___ 
was contacted and he was set up for a multiple sclerosis 
outpatient followup. ___ recommended outpatient ___. He improved 
to discharge home. 

Transitional Issues: 
- Multiple Sclerosis Outpatient Followup 
- Follow up of pending labs: 
Send Outs
___ 06:20 ___ VIRUS ANTIBODY WITH REFLEX TO INHIBITION ASSAY
___ 13:16 ___ VIRUS (JCV) DNA QUANTITATIVE PCR 
(cerebrospinal fluid (csf)) 
___ 13:16 VARICELLA DNA (PCR) (cerebrospinal fluid (csf)) 
___ 13:16 HERPES SIMPLEX VIRUS PCR (cerebrospinal fluid 
(csf)) 
___ 13:16 CYTOMEGALOVIRUS DNA, QUALITATIVE, PCR 
(cerebrospinal fluid (csf)) 
___ 13:16 MULTIPLE SCLEROSIS (MS) PROFILE (cerebrospinal 
fluid (csf)) 
___ 13:16 ___ VIRUS, QUAL TO QUANT, PCR 
(cerebrospinal fluid (csf)) 
___ 12:44 NEUROMYELITIS OPTICA (NMO)/AQUAPORIN-4-IGG 
CELL-BINDING ASSAY, SERUM
Microbiology
___ 13:33 CSF;SPINAL FLUID FLUID CULTURE; FUNGAL CULTURE; 
Enterovirus Culture
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO DAILY 
2. ValACYclovir 1000 mg PO Q24H 
3. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Outpatient Physical Therapy
Outpatient ___ 
ICD9: 340 
Dr. ___: ___ 
Fax: ___ 
2. Baclofen 10 mg PO DAILY 
Can uptitrate to TID  
3. Hydrochlorothiazide 25 mg PO DAILY 
4. ValACYclovir 1000 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Probable Multiple Sclerosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for unsteady gait. It is likely you have 
multiple sclerosis. Multiple sclerosis is a condition where the 
lining of your nerves becomes inflamed and damaged. You did not 
have any active inflammation currently, so you do not need a 
steroids at this time. We recommend you follow up with an 
Multiple Sclerosis specialist. 

Please take all your medications as prescribed. 

Sincerely, 
YOUR ___ NEUROLOGY TEAM 
 
Followup Instructions:
___